US08580783B2
2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid (V)
To a solution of commercially available benzo[1,3]dioxol-5-yl-acetyl chloride (3.70 g, 18.70 mmol) in anhydrous dichloromethane (20 mL) was added 2-amino-4,6-difluoro-benzoic acid (2.20 g, 12.5 mmol). After the addition of pyridine (5 mL), the mixture was heated under microwave condition at 120° C. for 5 minutes. The solvent was evaporated and the residue was diluted with 2 N HCl solution to induce the precipitation of a brown solid which was filtered, washed with water and dried under vacuum at 50° C., to afford the title compound (3.34 g, 80% yield).

reactant | benzo[1,3]dioxol-5-yl-acetyl chloride | 18.70 mmol, 3.70 g | O1COC2=C1C=CC(=C2)CC(=O)Cl | C9H7ClO3
reactant | 2-amino-4,6-difluoro-benzoic acid | 12.5 mmol, 2.20 g | NC1=C(C(=O)O)C(=CC(=C1)F)F | C7H5F2NO2
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 2-(2-benzo[1,3]dioxol-5-yl-acetylamino)-4,6-difluoro-benzoic acid | 3.34 g, 80% yield | O1COC2=C1C=CC(=C2)CC(=O)NC2=C(C(=O)O)C(=CC(=C2)F)F | C16H11F2NO5
